### PR TITLE
feat : `lemma_abadeulmac` is proved

### LINKED ISSUE #566: [ZETABOUND]: Identity for a partial sum of zeta(s)
## Description

This requires analytic continuation and the Euler-Maclaurin formula.

## Blueprint

[Lemma 7.4.7](https://alexkontorovich.github.io/PrimeNumberTheoremAnd/blueprint/zeta-chapter.html#lem:abadeulmac)

## Zulip

[Link](https://leanprover.zulipchat.com/#narrow/channel/423402-PrimeNumberTheorem.2B/topic/Let.20us.20formalize.20an.20appendix/with/567424097)

### PR DESCRIPTION
**Pull request by AlexKontorovich**
solves `lemma_abadeulmac`

Closes #566

### CODE REVIEW

File: PrimeNumberTheoremAnd/Lcm.lean [hunk 1]
```diff
@@ -1222,14 +1222,12 @@ theorem inv_n_pow_3_div_2_le {n : ℕ} (hn : n ≥ X₀ ^ 2) :
...
   \(n=X_0^2\).  One can verify numerically or symbolically. -/)
-  (latexEnv := "lemma")
-  (discussion := 511)]
-theorem inv_n_add_sqrt_ge {n : ℕ} (hn : n ≥ X₀ ^ 2) :
-    1 / (n + √(n : ℝ)) ≥ (1 / (1 + 1 / (89693 : ℝ))) * (1 / (n : ℝ)) := by
-  field_simp [one_mul, Lcm.X₀] at *
-  field_simp [div_le_div_iff₀, mul_add, add_mul,
-    (mul_le_mul_of_nonneg_right (Real.le_sqrt_of_sq_le
-      (by norm_cast : 89693 ^ 2 ≤ (n : ℝ))) ↑_).trans]
+  (latexEnv := "lemma")]
```
Comment (pitmonticone) [inline PrimeNumberTheoremAnd/Lcm.lean]: The `discussion` parameter should not be removed:

```suggestion
  (latexEnv := "lemma")
  (discussion := 511)]
```

File: PrimeNumberTheoremAnd/Lcm.lean [hunk 2]
```diff
@@ -1222,14 +1222,12 @@ theorem inv_n_pow_3_div_2_le {n : ℕ} (hn : n ≥ X₀ ^ 2) :
...
+theorem inv_n_add_sqrt_ge (n : ℕ) (hn : n ≥ X₀ ^ 2) : 1 / (n + √(n : ℝ)) ≥ (1 / (1 + 1 / (89693 : ℝ))) * (1 / (n : ℝ)) := by
+-- solved with help from AlphaProof
```
Comment (pitmonticone) [inline PrimeNumberTheoremAnd/Lcm.lean]: AI agents comments are not needed given the new labelling system: 

```suggestion
```

**Comment by pitmonticone** [comment]
Oh, this PR is actually in conflict with the already merged one by @b-mehta (#579) which is cleaner. 

What would you like to do here, @AlexKontorovich @teorth? Should we just close it?
